### PR TITLE
Re-implement simp_alive with the new framework

### PR DESCRIPTION
**Pull request by bollu**
This re-implements `simp_alive` such that we can eliminate the junk of the framework away, leaving only the pure mathematical statement behind.

This requires one to implement a library of simp lemmas that effectively rewrite the proof state.

### CODE REVIEW

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 1]
```diff
@@ -1,12 +1,101 @@
...
+      try simp[Goedel.toType] at v3
+      try simp[Goedel.toType] at v4
+      try simp[Goedel.toType] at v5
+      /- cases on variables, eliminating trivial `none` cases. -/
+      try cases' v0 with x0 <;> simp
+      <;> try cases' v1 with x1 <;> simp
+      <;> try cases' v2 with x2 <;> simp
+      <;> try cases' v3 with x3 <;> simp
+      <;> try cases' v4 with x4 <;> simp
+      <;> try cases' v5 with x5 <;> simp
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:82]: A lot of this seems to be replicated from `SSA/Core/Framework.lean`. I had hoped that simp_mlir would remain generic and independent of the dialects. Is this not the case?

File: SSA/Projects/InstCombine/ForMathlib.lean [hunk 2]
```diff
@@ -469,10 +469,15 @@ inductive Refinement {α : Type u} : Option α → Option α → Prop
...
 
+@[simp]
 theorem Refinement.some_some {α : Type u} {x y : α} :
   Refinement (some x) (some y) ↔ x = y :=
   ⟨by intro h; cases h; assumption, Refinement.bothSome⟩
 
+@[simp]
+theorem Refinement.none_left :
+  Refinement none x? := .noneAny
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForMathlib.lean:480]: This this change needed?

In particular, the AliveStatements.lean file already uses Std.BitVec as well as `SSA/Projects/InstCombine/ForStd.lean`.

File: SSA/Projects/InstCombine/Alive.lean [hunk 3]
```diff
@@ -1,3 +1,9 @@
...
   TODO: fix auto-generation script with new syntax
--/
\ No newline at end of file
+-/
+
+/- `AliveAutoGenerated.lean` is where the broken translation lives. -/
+import SSA.Projects.InstCombine.AliveAutoGenerated -- file auto generated from alive with syntax
+import SSA.Projects.InstCombine.AliveStatements -- pure math statements of alive theorems
+import SSA.Projects.InstCombine.Base -- base dialect
+import SSA.Projects.InstCombine.TacticAuto -- decision procedure.
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/Alive.lean:9]: Why are these new includes needed?

**Review by tobiasgrosser — COMMENTED** [review]
Thank you for getting this effort going. I left a couple of comments inline. The biggest two:
- We should use Std.BitVec
-  I am not sure why simp_mlir and simp_alive need to be merged. A comment explaining why this is needed would be helpful.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 1 above)
Comment (alexkeizer) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:82]: It might be a bit annoying to have separate `simp_mlir` and `simp_alive` tactics, but we can follow a similar strategy as `simp_peephole`: have a core tactic which takes extra simp-lemmas as argument, and then have `simp_alive` simply be an alias for `simp_mlir [alive_simp_lemma_1, alive_simp_lemma_2, ...]`.

We can probably have a single tactic at the base of both `simp_mlir` and `simp_peephole`

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 4]
```diff
@@ -1,12 +1,101 @@
...
+      dsimp only[]
+      unfold ICom.Refinement
+      intros Γv
+      try simp only[ICom.denote, IExpr.denote, HVector.denote, OpDenote.denote, InstCombine.Op.denote, HVector.toPair, pairMapM,
+        HVector.toTuple]
+      try simp[bind, Option.bind, pure]
+      try simp[DerivedContext.ofContext, DerivedContext.snoc, Ctxt.snoc] -- cannot rewrite with simp theorem 'motive is not type correct'
+      try simp[MOp.instantiateCom, InstCombine.MTy.instantiate, ConcreteOrMVar.instantiate,
+          Vector.get, HVector.toSingle, HVector.toTuple]
+      try simp[List.nthLe]
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:61]:
```suggestion
      simp [ICom.denote, IExpr.denote, HVector.denote, OpDenote.denote, InstCombine.Op.denote,
        HVector.toPair, pairMapM, HVector.toTuple, bind, Option.bind, pure,
        DerivedContext.ofContext, DerivedContext.snoc, Ctxt.snoc,
        MOp.instantiateCom, InstCombine.MTy.instantiate, ConcreteOrMVar.instantiate,
        Vector.get, HVector.toSingle, HVector.toTuple, List.nthLe
      ]
```
Can this be just a single (appropriately squeezed) simp call?

File: .gitignore [hunk 5]
```diff
@@ -34,3 +34,4 @@ temp.mlir
 tags
 test-semantics/*.mlir
 test-semantics/*.llvm
+*.olean
```
Comment (tobiasgrosser) [inline .gitignore:37]: This should be a separate PR. Happy for it to be merged without review.

File: SSA/Projects/InstCombine/Base.lean [hunk 6]
```diff
@@ -2,7 +2,7 @@
 import SSA.Core.Framework
 import SSA.Core.Util
 import SSA.Core.Util.ConcreteOrMVar
-import SSA.Projects.InstCombine.ForMathlib
+import SSA.Projects.InstCombine.ForStd
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply SSA/Projects/InstCombine/Base.lean:5]: This file being `InstCombine/Base` or `ForMathlib`?

[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/Base.lean:5]: Sorry, this was referring to ForMathlib.

File: .gitignore (hunk 5 above)
Comment (bollu) [reply .gitignore:37]: Pushed to main :)

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 4 above)
Comment (bollu) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean]: Done!

File: SSA/Projects/InstCombine/Alive.lean (hunk 3 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/Alive.lean]: I pushed these in a separate PR, as they seem unrelated to this PR.

File: SSA/Projects/InstCombine/ForMathlib.lean (hunk 2 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/ForMathlib.lean]: The ForMathlib.lean file is completely unused. I deleted it to make clear it is really not needed anymore.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 7]
```diff
@@ -1,11 +1,58 @@
...
+
+/--
+- We first simplify `ICom.refinement` to see the context `Γv`.
+- We `simp_peephole Γv` to simplify context accesses by variables.
+- We simplify the translation overhead.
+- Then we introduce variables, `cases` on the variables to eliminate the `none` cases.
+- We cannot leave it at this state, since then the variables will be inaccessible.
+- So, we revert the variables for the user to re-introduce them as they see fit.
+-/
+macro "simp_alive_peephole" : tactic =>
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:23]: Would it make sense to move this to `SSA.Projects.InstCombine.Tactic` and name it simp_alive. The move and rename of this tactic hides that fact that `try simp only` is mostly the same?

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 8]
```diff
@@ -1,11 +1,58 @@
...
+  `(tactic|
+      (
+      dsimp only[ICom.Refinement]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:26]: Add whitespace between only and `[`

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 9]
```diff
@@ -1,11 +1,58 @@
...
+      intros Γv
+      simp_peephole at Γv
+      /- note that we need the `HVector.toPair`, `HVector.toSingle` lemmas since it's used in `InstCombine.Op.denote`
+        We need `HVector.toTuple` since it's used in `MLIR.AST.mkOpExpr`. -/
+      try simp only[OpDenote.denote, InstCombine.Op.denote, HVector.toPair, pairMapM, BitVec.Refinement,
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:31]: Add whitespace between only and `[`

Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:31]: We also should disable 'decide' in simp using `(config := {decide := false})` as otherwise some theorems will simplify to nothing.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 10]
```diff
@@ -1,11 +1,58 @@
...
+        <;> try cases' v2 with x2 <;> simp
+        <;> try cases' v3 with x3 <;> simp
+        <;> try cases' v4 with x4 <;> simp
+        <;> try cases' v5 with x5 <;> simp
+      try revert v5
+      try revert v4
+      try revert v3
+      try revert v2
+      try revert v1
+      try revert v0
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:53]: I would prefer if we would not try to solve the refinement stuff, but maybe we can leave this for another PR.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 11]
```diff
@@ -22,46 +69,10 @@ def rhs (w : Nat):=
...
-  unfold lhs rhs
-  intro (Γv : ([.bitvec w, .bitvec w] : List InstCombine.Ty) |> Ctxt.Valuation)
-  simp [ICom.denote, IExpr.denote, HVector.denote, Var.zero_eq_last, Var.succ_eq_toSnoc,
-        Ctxt.snoc, Ctxt.Valuation.snoc_last, Ctxt.ofList, Ctxt.Valuation.snoc_toSnoc,
-        HVector.map, OpDenote.denote, IExpr.op_mk, IExpr.args_mk, ICom.Refinement,
-        Bind.bind, DialectMorphism.mapTy, MOp.instantiateCom,
-        InstCombine.MTy.instantiate, ConcreteOrMVar.instantiate, Vector.get, List.get]
-  sorry
-end AddCommutative
+  rw[lhs,rhs]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:72]: Whitespace between `rw` and `[`.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 12]
```diff
@@ -103,13 +114,14 @@ def AddSub_1043_tgt (w : Nat):=
...
-  simp [ICom.denote, IExpr.denote, HVector.denote, Var.zero_eq_last, Var.succ_eq_toSnoc,
-        Ctxt.snoc, Ctxt.Valuation.snoc_last, Ctxt.ofList, Ctxt.Valuation.snoc_toSnoc,
-        HVector.map, OpDenote.denote, IExpr.op_mk, IExpr.args_mk, ICom.Refinement,
-        Bind.bind]
-  simp_alive
-  rfl
\ No newline at end of file
+  simp_alive_peephole
+  apply bitvec_AddSub_1043
+  done
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:125]: Drop the `done`

File: SSA/Projects/InstCombine/ForStd.lean [hunk 13]
```diff
@@ -2,8 +2,11 @@ import Std.Data.BitVec
 
 open Std
 
-def ofBool : (Bool) -> Std.BitVec 1
- | c => if c then 1 else 0
+namespace Std.BitVec
+
+def ofBool : Bool -> Std.BitVec 1
+ | true   => 1
+ | false  => 0
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForStd.lean:9]: This change is orthogonal. I suggest to commit such trivial changes directly or push them into separate PRs. They just add noise to PRs.

**Review by tobiasgrosser — APPROVED** [review]
This is now close to being mergeable. Very nice!

File: SSA/Projects/InstCombine/ForStd.lean (hunk 13 above)
Comment (bollu) [reply SSA/Projects/InstCombine/ForStd.lean:9]: These were not me 😄 I thought it was you/Alex who made these changes when changing this PR to work with `Std`'s bitvec!

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 7 above)
Comment (bollu) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:23]: I would prefer us to keep it here, and honestly, find a better name, since we will have *two* tactics moving forward:
- `simp_alive_peephole` to eliminate the rewriter junk to get a pure theorem, and
- `alive_auto` or such, to try to be a decision procedure that tries `ring` and other such tactics to simplify theorems. 

I am not a fan of either of the names, since I find them confusing. To help bikeshedding, I would name the something like:
- `alive_cleanup`: this "cleans up" the state to get a pure maths theorem
- `alive_decide` this is a "decision procedure" that tries to simplify the proof as much as possible.

Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:23]: Is there a specific reason you prefer a the tactic definition to be places in a file full of auto-generated theorems, rather than in its own tactic-specific file? That seems surprising to me.

I am happy with renaming the tactics, but find a complex PR the wrong place to do so. Again, this seems to be a great self-contained PR.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 10 above)
Comment (bollu) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:53]: Yes, let's do it in the next cleanup

File: SSA/Projects/InstCombine/ForStd.lean (hunk 13 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/ForStd.lean]: I pushed this in a separate PR.

**Comment by bollu** [comment]
LGTM (modulo build actually succeeding), thanks for moving the definition into a new file, and having the tactic live in a separate file as well!

**Comment by bollu** [comment]
LGTM, feel invited to merge!
